US05286728
The starting material is prepared as follows: There are added to 30 g of 4-(N-methylamino)benzoic acid in 500 ml of dichloromethane 30.7 g of Hunig base and, at 5°, 24.6 g of chloroacetyl chloride in 50 ml of dichloromethane. After stirring for 2 hours at RT, the suspension is concentrated by evaporation, and the residue is digested with water, filtered with suction and washed with 1N hydrochloric acid. The mixture is digested with ether and filtered with suction, yielding 4-(N-chloroacetyl-N-methylamino)benzoic acid having a melting point (186°) of 195°-197°. 10 g thereof are boiled under reflux for 2 hours in 150 ml methylene chloride with 5 drops of pyridine with 15 ml of thionyl chloride, concentrated by evaporation and recrystallised from hexane. The resulting 4-(N-chloroacetyl-N-methylamino)benzoic acid chloride melts at 61°-63°.

reactant | 4-(N-methylamino)benzoic acid | 30 g | CNC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | Hunig base | CCN(C(C)C)C(C)C | C8H19N
reactant | chloroacetyl chloride | 24.6 g | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 500 ml, 30.7 g | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-(N-chloroacetyl-N-methylamino)benzoic acid | ClCC(=O)N(C)C1=CC=C(C(=O)O)C=C1 | C10H10ClNO3
